US08350044B2
Preparation of (2-bromo-4-chloro-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester
To a solution of (2-bromo-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester (4.0 g, 13 mmol) in acetonitrile (75 mL) was added N-chlorosuccinimide (3.48 g, 26 mmol) in one portion and the reaction mixture was stirred for 16 h. The reaction mixture was concentrated and the crude product was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as a grey solid (4.2 g, 95%): IR (KBr) 1738 cm−1; 1H NMR (300 MHz, CDCl3) δ 3.61 (q, J=7.1 Hz, 2H), 1.43 (s, 9H), 1.16 (t, J=7.1 Hz, 3H).

reactant | (2-bromo-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester | 13 mmol, 4.0 g | C(C)(C)(C)OC(N(CC)C1=CN=C(S1)Br)=O | C10H15BrN2O2S
reactant | N-chlorosuccinimide | 26 mmol, 3.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | (2-bromo-4-chloro-thiazol-5-yl)-methyl-carbamic acid tert-butyl ester | 4.2 g, 95% | C(C)(C)(C)OC(N(C)C1=C(N=C(S1)Br)Cl)=O | C9H12BrClN2O2S
